US06821969B2
N-(4-chlorobenzyl)-9-(4-morpholinylmethyl)-7-thioxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxamide) (A-9 of Chart A)
A mixture of N-(4-Chlorobenzyl)-9-(4-morpholinylmethyl)-7-oxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxamide (1.20 g, 2.64 mmol) of preparation 6 is dissolved in dichloroethane (160 mL) followed by the addition of KHMDS (0.5 M, 5.3 mL, 2.64 mmol, 1 equiv.). Then Lawesson's reagent (2.1 g, 5.28 mmol, 2.0 equiv) and toluene (160 mL) is added and the resulting mixture is heated at reflux for 24 h. The reaction is cooled to room temperature, diluted with DCM, washed with water, brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography (heptane/EtOAc 4/1, 1/1, 1/4, 0/1 then DCM/MeOH 19/1) and then repurified by silica gel chromatography (DCM/MeOH 11/0, 45/1, 9/1) to afford 48 mg of the title compound as a solid.

reactant | N-(4-Chlorobenzyl)-9-(4-morpholinylmethyl)-7-oxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxamide | 2.64 mmol, 1.20 g | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)CN2CCOCC2)OCC3)C=C1 | C24H24ClN3O4
reactant | KHMDS | 2.64 mmol, 0.5 M, 5.3 mL, 1 equiv. | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | Lawesson's reagent | 5.28 mmol, 2.1 g, 2.0 equiv | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloroethane | 160 mL | ClC(C)Cl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(4-chlorobenzyl)-9-(4-morpholinylmethyl)-7-thioxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxamide | 48 mg | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=S)CN2CCOCC2)OCC3)C=C1 | C24H24ClN3O3S
